US04240822
Preparation of 4-nitro-2-phenyl-2H-benzotriazole
A solution of 40.6 grams of 2,6-dinitrochlorobenzene, 21.6 grams phenylhydrazine and 350 milliliters of 95% ethanol is heated at the reflux temperature for 22 hours. Then the solvent is evaporated to yield a dark oil. To the oil is added 70 milliliters of acetic acid and the mixture is heated to reflux for 6 hours. After cooling to room temperature, the crude product is collected by filtration, washed with petroleum ether and then washed with hot methanol to yield 8.5 grams (18%) of product m.p. 155°-156° C. The analytical sample is recrystallized from methanol, m.p. 155°-156° C.

reactant | 2,6-dinitrochlorobenzene | 40.6 grams | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
reactant | phenylhydrazine | 21.6 grams | C1(=CC=CC=C1)NN | C6H8N2
reactant | ethanol | 350 milliliters | C(C)O | C2H6O
solvent | acetic acid | 70 milliliters | C(C)(=O)O | C2H4O2
product | 4-nitro-2-phenyl-2H-benzotriazole | 8.5 grams, 18% | [N+](=O)([O-])C1=CC=CC2=NN(N=C21)C2=CC=CC=C2 | C12H8N4O2
